US07642270B2
1-(2-Bromo-ethyl)-4-nitro-benzene (0.9 g, 3.9 mmol) was added to a mixture of 1-methyl-piperazine (520 μL, 4.7 mmol) and potassium carbonate (1 g, 4.7 mmol) in 5 mL of DMSO. The mixture was stirred at 100° C. for 2 hour. After cooling to room temperature, the mixture was extracted into ethyl acetate (EtOAc), washed with water, brine and then dried with sodium sulfate (Na2SO4). Removal of the solvent and chromatography on silica, eluting with EtOAc/CH3OH/NH4OH (10:1:0.1, v/v), gave 850 mg of 1-methyl-4-[2-(4-nitro-phenyl)-ethyl]-piperazine, which was converted to the title compound under normal hydrogenation conditions. The title compound was obtained as a yellow solid (780 mg, 91%). 1H NMR (400 MHz, CDCl3) δ (ppm): 6.98 (d, J=8.3 Hz, 2H), 6.61 (d, J=8.3 Hz, 2H), 3.57 (br, 2H), 2.71 (br, 12H), 2.43 (br, 3H).

reactant | 1-(2-Bromo-ethyl)-4-nitro-benzene | 3.9 mmol, 0.9 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | 1-methyl-piperazine | 4.7 mmol, 520 μL | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 4.7 mmol, 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-methyl-4-[2-(4-nitro-phenyl)-ethyl]-piperazine | 850 mg | CN1CCN(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O2
